US04234589
B. 5-Chloro-1,3-dioxolo[4,5-g]quinoline-7-methanol, hydrochloride
56 g of Ethyl 5-chloro-1,3-dioxolo[4,5-g]quinoline-7-carboxylate (0.2 mol) are dissolved in 400 ml of anhydrous tetrahydrofuran. Nitrogen is passed through the flask and while stirring and cooling to -5° C., 5.7 g of lithium aluminum hydride are added a bit at a time in order to keep the reaction temperature below 0° C. Stirring is continued for an additional 2.5 hours. Then 360 ml of aqueous hydrochloric acid (3 N) are added while keeping the reaction temperature below 10° C. The precipitated title compound (40.5 g) is recrystallized from aqueous hydrochloric acid (3 N). Yield 38.1 g (70%), m.p. >300° C.

reactant | Ethyl 5-chloro-1,3-dioxolo[4,5-g]quinoline-7-carboxylate | 0.2 mol, 56 g | ClN1CC(=CC=2C=C3C(=CC12)OCO3)C(=O)OCC | C13H12ClNO4
reactant | lithium aluminum hydride | 5.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 3 N, 360 ml | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 5-Chloro-1,3-dioxolo[4,5-g]quinoline-7-methanol, hydrochloride | Cl.ClN1CC(=CC=2C=C3C(=CC12)OCO3)CO | InChI=1S/C11H10ClNO3.ClH/c12-13-4-7(5-14)1-8-2-10-11(3-9(8)13)16-6-15-10;/h1-3,14H,4-6H2;1H
